US07790720B2
To a solution of {2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}acetic acid ax63 (0.5 g, 1.69 mmol, 1 eq) in dichloromethane (50 ml) is added 1-hydroxybenzotriazole (0.025 g, 0.19 mmol, 0.11 eq) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.357 g, 1.86 mmol, 1.1 eq). To that solution is added pyrrolidine (0.29 ml, 3.38 mmol, 2 eq) and the mixture is stirred at room temperature overnight. The mixture is poured into water and extracted with dichloromethane. The organic layer is dried over magnesium sulfate and the solvent is removed under vacuum to afford 0.51 g of 2-[4-(3-chloropropoxy)phenyl]-4-(2-oxo-2-pyrrolidin-1-ylethyl)-1,3-oxazole ax64 as a pale yellow oil.

reactant | {2-[4-(3-chloropropoxy)phenyl]-1,3-oxazol-4-yl}acetic acid | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)CC(=O)O | C14H14ClNO4
reactant | 1-hydroxybenzotriazole | 0.19 mmol, 0.025 g, 0.11 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.86 mmol, 0.357 g, 1.1 eq | Cl.CN(CCCN=C=NCC)C
reactant | pyrrolidine | 3.38 mmol, 0.29 ml, 2 eq | N1CCCC1 | C4H9N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-[4-(3-chloropropoxy)phenyl]-4-(2-oxo-2-pyrrolidin-1-ylethyl)-1,3-oxazole | 0.51 g, Yield: 86% | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)CC(N1CCCC1)=O | C18H21ClN2O3
